US04225618
11.45 g (0.05 mol) of 3,5-bis-trifluoromethylaniline were dissolved in 80 ml of dry toluene, and 6.7 g (0.05 mol) of β-chloropropionyl isocyanate in 20 ml of dry toluene were added. The mixture was stirred at 60° C. for 1 hour, the solvent was distilled off in vacuo and the residue was taken up in petroleum ether. The crystalline product was filtered off and dried. 14.5 g (80.5% of theory) of N-(3,5-bis-trifluoromethyl-phenyl)-N'-(β-chloropropionyl)-urea, which melts at 175° C., were obtained.

reactant | 3,5-bis-trifluoromethylaniline | 0.05 mol, 11.45 g | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | β-chloropropionyl isocyanate | 0.05 mol, 6.7 g | ClCCC(=O)N=C=O | C4H4ClNO2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-bis-trifluoromethyl-phenyl)-N'-(β-chloropropionyl)-urea | 14.5 g, 80.5% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)NC(CCCl)=O)(F)F | C12H9ClF6N2O2
